US07553973B2
Step 2: 4-(2-Methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid
To a solution of methyl 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate (1.0 g, 3.32 mmol) in THF (33 ml) was added lithium hydroxide 1 M (16.6 ml, 16.6 mmol). The reaction was heated at 65° C. for 90 min, cooled to rt and evaporated. A solution of HCl 2N was then added to the residue and the mixture stirred for 1 h. The powder was filtered to give the title compound. 1H NMR (400 MHz, DMSO-d6): δ 8.37 (m, 1H), 8.28 (s, 1H), 7.87 (m, 2H), 6.85 (s, 1H), 2.80 (s, 3H).

reactant | methyl 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate | 3.32 mmol, 1.0 g | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)OC)=O | C15H11NO4S
reactant | lithium hydroxide | 16.6 mmol, 1 M, 16.6 ml | [OH-].[Li+]
solvent | THF | 33 ml | C1CCOC1 | C4H8O
product | 4-(2-Methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C14H9NO4S
